US08937087B2
To a mixture of N-(tert-butoxycarbonyl)-N-methylglycine (1.00 g), 4-methoxybenzene-1,2-diamine dihydrochloride (1.16 g) and DMF (25 mL) were added HATU (2.41 g) and DIPEA (4.5 mL), followed by stirring at room temperature overnight. The reaction mixture was diluted with EtOAc, and washed with water and brine in this order. The organic layer was dried over Na2SO4 and then concentrated under reduced pressure. To the residue was added acetic acid (20 mL), followed by heating and stirring at 80° C. for 3 hours, and then concentrating under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: Hex/EtOAc=80/20-20/80) to obtain tert-butyl [(5-methoxy-1H-benzimidazol-2-yl)methyl]methylcarbamate (1.22 g).

reactant | N-(tert-butoxycarbonyl)-N-methylglycine | 1.00 g | C(C)(C)(C)OC(=O)N(CC(=O)O)C | C8H15NO4
reactant | 4-methoxybenzene-1,2-diamine dihydrochloride | 1.16 g | Cl.Cl.COC=1C=C(C(=CC1)N)N
reactant | HATU | 2.41 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | tert-butyl [(5-methoxy-1H-benzimidazol-2-yl)methyl]methylcarbamate | 1.22 g | COC1=CC2=C(NC(=N2)CN(C(OC(C)(C)C)=O)C)C=C1 | C15H21N3O3
